US05756507
Step 13.1B (2-(3,5-dimethylphenyl)-3-{2-[4-(4-methanesulfonylaminophenyl)butylamino]ethyl}-1H-indol-5-yl)acetic acid ethyl ester
The reductive amination reaction of [3-(2-aminoethyl)-2-(3,5-dimethylphenyl)-1H-indol-5-yl]-acetic acid ethyl ester and 4-[4-(methanesulfonamido)phenyl]butyraldehyde was accomplished according to the procedure of Example 14.1, Step 14.1B to give the titled compound in 29% yield as a stiff foam; homogenous by TLC in 92.5:7.5 CH2Cl2 --MeOH. 500 MHz 1H NMR (CDCl3) was consistent with the assigned structure. Mass spectrum (ESI): m/e=576 (M+H).

reactant | [3-(2-aminoethyl)-2-(3,5-dimethylphenyl)-1H-indol-5-yl]-acetic acid ethyl ester | C(C)OC(CC=1C=C2C(=C(NC2=CC1)C1=CC(=CC(=C1)C)C)CCN)=O | C22H26N2O2
reactant | 4-[4-(methanesulfonamido)phenyl]butyraldehyde | CS(=O)(=O)NC1=CC=C(C=C1)CCCC=O | C11H15NO3S
product | (2-(3,5-dimethylphenyl)-3-{2-[4-(4-methanesulfonylaminophenyl)butylamino]ethyl}-1H-indol-5-yl)acetic acid ethyl ester | 29% yield | C(C)OC(CC=1C=C2C(=C(NC2=CC1)C1=CC(=CC(=C1)C)C)CCNCCCCC1=CC=C(C=C1)NS(=O)(=O)C)=O | C33H41N3O4S
